US04798620
Ethyl bromoacetate (92 g) was added dropwise at a temperature of 50° C. to 60° C. to a mixture of 2-amino-5-nitrophenol (38.5 g), potassium carbonate (106.4 g) and N,N-dimethylformamide (100 ml). After the mixture was stirred at a temperature of 100° C. to 110° C. for 6 hours, it was cooled and poured into ice-cold water (500 g). The liquor was extracted twice with toluene (300 ml), both portions of the extraction liquor were combined and washed with water, an aqueous solution of 5% potassium hydroxide, and water, in that order, and dried with anhydrous sodium sulfate, then the solvent was distilled off. Recrystallization of the residue from toluene-hexane gave the desired 4-ethoxycarbonylmethyl-7-nitro-2H-1,4-benzoxazin-3(4H)-one (30 g). When the mother liquor was distilled and recrystallized from ethanol, additional 1.3 g of the desired compound was produced. mp. 120.5°-121.5° C.

reactant | Ethyl bromoacetate | 92 g | BrCC(=O)OCC | C4H7BrO2
reactant | 2-amino-5-nitrophenol | 38.5 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | potassium carbonate | 106.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-ethoxycarbonylmethyl-7-nitro-2H-1,4-benzoxazin-3(4H)-one | 30 g | C(C)OC(=O)CN1C(COC2=C1C=CC(=C2)[N+](=O)[O-])=O | C12H12N2O6
